US07989657B2
To 2-(4-iodo-benzoylamino)-benzoic acid methyl ester [75541-84-3] (50 mg) in 1-methyl-2-pyrrolidinone (1 mL) was added 4-fluorophenol (29.4 mg), copper (I) chloride (6.6 mg), cesium carbonate (85 mg) and 8-hydroxy-chinolin (4.7 mg). The reaction mixture was stirred at 120° C. for 18 hours. After such time, the reaction mixture was allowed to cool down to room temperature, diluted with water, formic acid was added (0.3 mL) and the solution was purified by preparative HPLC to yield 2-[4-(4-fluoro-phenoxy)-benzoylamino]-benzoic acid (49.1 mg). MS (m/e): 332.1 (M−H−, 100%).

reactant | 2-(4-iodo-benzoylamino)-benzoic acid methyl ester | 50 mg | COC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)I)=O)=O | C15H12INO3
reactant | 4-fluorophenol | 29.4 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | cesium carbonate | 85 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 8-hydroxy-chinolin | 4.7 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
solvent | formic acid | C(=O)O | CH2O2
catalyst | copper (I) chloride | 6.6 mg | [Cu]Cl
product | 2-[4-(4-fluoro-phenoxy)-benzoylamino]-benzoic acid | 49.1 mg | FC1=CC=C(OC2=CC=C(C(=O)NC3=C(C(=O)O)C=CC=C3)C=C2)C=C1 | C20H14FNO4
